US05214143
2-Amino-4-chlorodifluoromethoxy-6-methoxy-1,3,5-triazine
8.4 g (0.0466 mol) of 30% strength sodium methylate were added over the course of 15 minutes to a stirred mixture of 10 g (0.0466 mol) of 2-amino-4-chlorodifluoromethoxy-6-fluoro-1,3,5-triazine and 100 ml of methanol at 0° C. The mixture was stirred at 0° C. for one hour and then concentrated under reduced pressure, taken up in methylene chloride and extracted with water. Drying and concentration yielded 10.4 g (98.5% of theory) of the title compound of melting point 109°-111° C.

reactant | sodium methylate | C[O-].[Na+]
reactant | 2-amino-4-chlorodifluoromethoxy-6-fluoro-1,3,5-triazine | 0.0466 mol, 10 g | NC1N(C(=NC(=N1)Cl)F)OC(F)F | C4H4ClF3N4O
solvent | methanol | 100 ml | CO | CH4O
product | 2-Amino-4-chlorodifluoromethoxy-6-methoxy-1,3,5-triazine | NC1N(C(=NC(=N1)Cl)OC)OC(F)F | C5H7ClF2N4O2
